US05250554
Methyl 2-butyl-1-[(2'-cyanobiphenyl-4-yl)methyl]benzimidazole-4-carboxylate
To a solution of methyl 2-butylbenzimidazole-7-carboxylate (1.5 g) in DMF (15 ml) was added sodium hydride (60% oil, 0.13 g) under ice-cooling. The mixture was stirred for 20 minutes and there was added 4-(2-cyanophenyl)benzyl chloride (1.5 g). The resultant mixture was stirred for further 5 hours at room temperature and there was added water, followed by extraction with ethyl acetate. The organic layer was washed with water and dried. The solvent was evaporated to dryness, and the residue was purified by column chromatography on silica gel to give a pale yellow oil (2.3 g, 82%).

reactant | methyl 2-butylbenzimidazole-7-carboxylate | 1.5 g | C(CCC)C=1NC2=C(N1)C(=CC=C2)C(=O)OC | C13H16N2O2
reactant | sodium hydride | 0.13 g | [H-].[Na+]
reactant | 4-(2-cyanophenyl)benzyl chloride | 1.5 g | C(#N)C1=C(C=CC=C1)C1=CC=C(CCl)C=C1 | C14H10ClN
reactant | water | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | Methyl 2-butyl-1-[(2'-cyanobiphenyl-4-yl)methyl]benzimidazole-4-carboxylate | 2.3 g, 82% | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C=CC=C2C(=O)OC | C27H25N3O2
